US06919331B2
To a cooled (0° C.) solution of [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-methyl-carbamic acid tert-butyl ester (39 mg, 0.071 mmol) and anisole (77 μL, 0.71 mmol) in DCM (3 mL) was added TFA (165 μL, 2.14 mmol). The solution was allowed to reach room temperature and after 1 h another amount of TFA (200 μL) was added. After 1 h the volatiles were removed in vacuo and the residue was stripped with DCM (2×) and methanol (1×). The TFA salt was dissolved in methanol followed by the addition of acetyl cloride (50 μL, 0.71 mmol) and concentrated. This procedure was repeated once. The product was triturated in diethyl ether to give 3-cyclopropyl-1-[5-methylaminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-1H-quinazoline-2,4-dione; HCl salt (31 mg, 91%) as an off white solid.

reactant | [2-(3-cyclopropyl-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-ylmethyl)-1-(3-methyl-butyl)-1H-benzoimidazol-5-ylmethyl]-methyl-carbamic acid tert-butyl ester | 0.071 mmol, 39 mg | C(C)(C)(C)OC(N(C)CC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)C2CC2)=O)CCC(C)C)C=C1)=O | C31H39N5O4
reactant | anisole | 0.71 mmol, 77 μL | C1(=CC=CC=C1)OC | C7H8O
reactant | TFA | 2.14 mmol, 165 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 200 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetyl cloride | 0.71 mmol, 50 μL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-cyclopropyl-1-[5-methylaminomethyl-1-(3-methyl-butyl)-1H-benzoimidazol-2-ylmethyl]-1H-quinazoline-2,4-dione | C1(CC1)N1C(N(C2=CC=CC=C2C1=O)CC1=NC2=C(N1CCC(C)C)C=CC(=C2)CNC)=O | C26H31N5O2
